US07399868B2
A solution of 1-benzofuran-3-yl-2-bromo-ethanone (Intermediate I1) (commercially available from Maybridge) (2.1 g, 8.8 mmol) in toluene at reflux was treated with tributyltin hydride (2.9 mL, 10.6 mmol) and 2,2′-azobisisobutyronitrile (AIBN, catalyst) for 2 h. The mixture was cooled to rt and concentrated onto silica gel under reduced pressure. The product was eluted from a column of silica gel with 5% EtOAc: hexane to give 1-benzofuran-3-yl-ethanone (Intermediate I2) as an oil, 1.45 g (99%).

reactant | 1-benzofuran-3-yl-2-bromo-ethanone | O1C=C(C2=C1C=CC=C2)C(CBr)=O | C10H7BrO2
reactant | tributyltin hydride | 10.6 mmol, 2.9 mL | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-benzofuran-3-yl-ethanone | O1C=C(C2=C1C=CC=C2)C(C)=O | C10H8O2
